US08877799B2
Process for Preparing Vildagliptin Magnesium(II)-Chloride Complex (2:1)
0.34 g (1.65 mmole) of magnesium(II)-chloride hexahydrate is dissolved in 15 cm3 of 2-propanol at 50° C. under intensive stirring, and 1.0 g (3.3 mmole) of vildagliptin base is added to the solution. The solution is stirred at room temperature for 2 hours and is subsequently evaporated. The remaining crystalline product is washed with propanol and dried.

reactant | magnesium(II)-chloride hexahydrate | 1.65 mmole, 0.34 g | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | vildagliptin | 3.3 mmole, 1.0 g | C1C[C@H](N(C1)C(=O)CNC23CC4CC(C2)CC(C4)(C3)O)C#N | C17H25N3O2
solvent | 2-propanol | 15 cm3 | CC(C)O | C3H8O
product | Vildagliptin Magnesium(II)-Chloride | C1C[C@H](N(C1)C(=O)CNC23CC4CC(C2)CC(C4)(C3)O)C#N.[Cl-].[Mg+2].[Cl-] | InChI=1S/C17H25N3O2.2ClH.Mg/c18-9-14-2-1-3-20(14)15(21)10-19-16-5-12-4-13(6-16)8-17(22,7-12)11-16;;;/h12-14,19,22H,1-8,10-11H2;2*1H;/q;;;+2/p-2/t12?,13?,14-,16?,17?;;;/m0.../s1
